US04863948
(C) N-[4-Methanesulphonamidophenacyl]-N-methyl-2-(4-methyl-2H-phthalazin-1-on-2-yl)ethylamine hemihydrate
2-(4-Methyl-2H-phthalazin-1-on-2-yl)-N-methylethylamine hydrobromide (2 g), 4-methanesulphonamidophenacyl bromide (1.8 g) and triethylamine (1.5 g) in ethanol (50 ml) were stirred at room temperature for 2 hours. The solvent was removed, the residue taken up in methylene chloride (100 ml), washed (aqueous sodium bicarbonate), dried (MgSO4) and evaporated. Chromatography on silica [Merck `Kieselgel 60` (Trade Mark)] eluting with methylene chloride containing methanol (0% up to 5%) gave, after collection and evaporation of appropriate fractions, an oil which was triturated with ethanol to give the title compound, yield 1.63 g, m.p. 176°-179°.

reactant | 2-(4-Methyl-2H-phthalazin-1-on-2-yl)-N-methylethylamine hydrobromide | 2 g | Br.CC1=NN(C(C2=CC=CC=C12)=O)CCNC
reactant | 4-methanesulphonamidophenacyl bromide | 1.8 g | CS(=O)(=O)NC1=CC=C(C(CBr)=O)C=C1 | C9H10BrNO3S
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[4-Methanesulphonamidophenacyl]-N-methyl-2-(4-methyl-2H-phthalazin-1-on-2-yl)ethylamine hemihydrate | O.CS(=O)(=O)NC1=CC=C(C(CN(C)CCN2C(C3=CC=CC=C3C(=N2)C)=O)=O)C=C1.CS(=O)(=O)NC1=CC=C(C(CN(C)CCN2C(C3=CC=CC=C3C(=N2)C)=O)=O)C=C1 | InChI=1S/2C21H24N4O4S.H2O/c2*1-15-18-6-4-5-7-19(18)21(27)25(22-15)13-12-24(2)14-20(26)16-8-10-17(11-9-16)23-30(3,28)29;/h2*4-11,23H,12-14H2,1-3H3;1H2
